US05079256
1.16 g of α-[[(3-thienyl)amino]methyl]-6-fluoro-3,4-dimethoxybenzyl alcohol was dissolved in 11 ml of trifluoroacetic acid and after adding thereto 0.31 ml of conc. sulfuric acid under ice cooling, the mixture was stirred for 4 hours. The reaction solution was concentrated, and chloroform and water were added to the residue. The mixture was basified by addition of 10 ml of conc. aqueous ammonia under ice cooling. The chloroform layer was collected after a separating procedure, washed with water, and dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was recrystallized from ethanol, affording 0.76 g of 7-(6-fluoro-3,4-dimethoxyphenyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine (m.p. 108°-111° C.).

reactant | α-[[(3-thienyl)amino]methyl]-6-fluoro-3,4-dimethoxybenzyl alcohol | 1.16 g | S1C=C(C=C1)NCC(C1=CC(=C(C=C1F)OC)OC)O | C14H16FNO3S
reactant | sulfuric acid | 0.31 ml | S(O)(O)(=O)=O | H2O4S
reactant | trifluoroacetic acid | 11 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-(6-fluoro-3,4-dimethoxyphenyl)-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | 0.76 g | FC1=CC(=C(C=C1C1C2=C(CNC1)C=CS2)OC)OC | C15H16FNO2S
